US07592373B2
2.1.a. 2-(4-iodophenyl)ethanol
0.474 g (2.48 mmol) of copper (I) iodide, 5 g (24.86 mmol 2-(4-bromophenyl)ethanol and 7.45 g (49.73 mmol) of sodium iodide are successively added to a flask under an argon atmosphere. Then 0.438 g (4.97 mmol) of dimethylenediamine and 25 mL dioxane are added and the reaction mixture is refluxed for 14 hours. Then the reaction mixture is combined with 20 mL concentrated ammonia solution at ambient temperature, with 100 mL of water diluted and extracted with dichloromethane. The organic phase is extracted three times with water and dried over sodium sulfate. Yield: 5.4 g (87.5% of theory); C8H9IO (M=248.06); calc.: molecular ion peak (M)+: 248; found: molecular ion peak (M)+: 248; Rf value: 0.6 (silica gel, dichloromethane/ethanol (10:1)).

reactant | 2-(4-bromophenyl)ethanol | 24.86 mmol | BrC1=CC=C(C=C1)CCO | C8H9BrO
reactant | sodium iodide | 49.73 mmol, 7.45 g | [I-].[Na+]
reactant | dimethylenediamine | 4.97 mmol, 0.438 g | NCCN | C2H8N2
reactant | ammonia | 20 mL | N | H3N
catalyst | copper (I) iodide | 2.48 mmol, 0.474 g | [Cu]I
solvent | water | 100 mL | O | H2O
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 2-(4-iodophenyl)ethanol | IC1=CC=C(C=C1)CCO | C8H9IO
